US07417032B2
1-bromo-3-brommethyl-4-chloro-benzene
4.0 g N-bromosuccinimide are slowly added to a solution of 5.0 g 1-bromo-4-chloro-3-hydroxymethyl-benzene and 5.9 g triphenylphosphine in 50 ml of tetrahydrofuran cooled to 5° C. After 1 h stirring at ambient temperature the precipitate is filtered off and the solvent is eliminated in vacuo. The residue is purified on silica gel (cyclohexane/ethyl acetate 50:1).

reactant | N-bromosuccinimide | 4.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-bromo-4-chloro-3-hydroxymethyl-benzene | 5.0 g | BrC1=CC(=C(C=C1)Cl)CO | C7H6BrClO
reactant | triphenylphosphine | 5.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-bromo-3-brommethyl-4-chloro-benzene | BrC1=CC(=C(C=C1)Cl)CBr | C7H5Br2Cl
